US03957783
A mixture of 16.0 g of 2-methylamino-3-(o-chlorobenzoyl)-4-methylthiophene, 16.1 g of ethyl carbamate and 1.22 g of zinc chloride is heated at 200°C for 1 hour. After cooling, the reaction mixture is extracted with chloroform. The extracts are combined, washed with water, dried over sodium sulfate and concentrated to dryness under reduced pressure. The residue is chromatographed on silica gel using chloroform as an eluent to give 1-methyl-4-(o-chlorophenyl)-5-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one as crystals having a melting point of 267.5° - 268.5°C (after recrystallization from chloroformethanol).

reactant | 2-methylamino-3-(o-chlorobenzoyl)-4-methylthiophene | 16.0 g | CNC=1SC=C(C1C(C1=C(C=CC=C1)Cl)=O)C | C13H12ClNOS
reactant | ethyl carbamate | 16.1 g | C(N)(OCC)=O | C3H7NO2
catalyst | zinc chloride | 1.22 g | [Cl-].[Zn+2].[Cl-]
product | 1-methyl-4-(o-chlorophenyl)-5-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | CN1C(N=C(C2=C1SC=C2C)C2=C(C=CC=C2)Cl)=O | C14H11ClN2OS
